US08624062B2
To 10.0 g of 2-(2,5-dimethylphenoxymethyl)-mandelonitrile (content: 96% by weight), 30 g of xylene, 3.66 g of hydrogen chloride and 0.648 g of water were added. The obtained mixture was heated to 50° C., stirred and maintained at the same temperature for 3 hours to obtain a xylene solution containing 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyacetamide (yield: 65.7%). The formation of by-products generated by the hydrolysis of 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyacetamide was not recognized.

reactant | 2-(2,5-dimethylphenoxymethyl)-mandelonitrile | 10.0 g | CC1=C(OCC2=C(C(C#N)O)C=CC=C2)C=C(C=C1)C | C17H17NO2
reactant | hydrogen chloride | 3.66 g | Cl | ClH
reactant | water | 0.648 g | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 30 g | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyacetamide | yield: 65.7% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)N)O)C=C(C=C1)C | C17H19NO3
